US05026856
2-benzyl-5-aminoisoindoline prepared above was dissolved in 50 ml of anhydrous benzene, and 1.77 g of acetic anhydride was added. After standing for 2 hours at room temperature, the mixture was washed with 5% sodium bicarbonate and brine. The organic layer was concentrated to afford 2-benzyl-5-acetamidoisoindoline.

reactant | 2-benzyl-5-aminoisoindoline | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)N | C15H16N2
reactant | acetic anhydride | 1.77 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-benzyl-5-acetamidoisoindoline | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)NC(C)=O | C17H18N2O
